US09056873B2
Step A: tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A solution of tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (50 mg, 0.100 mmol), 3-cyclopropyl-5-(tributylstannyl)isothiazole (62.0 mg, 0.150 mmol) and tetrakis(triphenylphosphine)palladium(0) (34.6 mg, 0.030 mmol) in toluene (10 mL) was heated to 120° C. for 45 minutes via microwave irradiation. The reaction mixture was poured into water and was extracted with EtOAc. The extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (1:1) to give the title compound as a yellow solid, which was used without further purification (58.9 mg, 100%). ESI-MS m/z [M+H]+ calc'd for C28H36FN5O6S, 590. found, 590.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.100 mmol, 50 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | 3-cyclopropyl-5-(tributylstannyl)isothiazole | 0.150 mmol, 62.0 mg | C1(CC1)C1=NSC(=C1)[Sn](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 34.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-(3-cyclopropylisothiazol-5-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C1=CC(=NS1)C1CC1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C28H36FN5O6S
